US05486511
A stirred solution of 4-azido-17β-(cyclopropyloxy)androst-4-en-3-one (1.32 q, 3.57 mM), triphenylphosphine (1.14 g, 4.97 mM), tetrahydrofuran (25 ml) and water (8 ml) was heated to reflux for 15 hours. The reaction was cooled and most of the solvent was evaporated. The residue was dissolved in dichloromethane, loaded onto a column of SiO2 and flash chromatographed (toluene--10% ethyl acetate) to give 4-amino-17β-(cyclopropyloxy)androst-4-en-3-one (0.53 g 43.1%), mp 85°-88° C. IR 3446, 3363, 1672, 1584 cm-1 ; MS (CI) m/z 344 (100%, M+ +1), 1H NMR (CDCl3), 0.38-0.61 (4H, m, 2×cyclopropyl (CH2 's), 0.74 (s, C18 -Me), 1.15 (s, C19 -Me), 3.25-3.33 (m, OCH), 3.44 (t+br s, C17 α-H+NH 2), 13C NMR (CDCl3), 88.95, 132.87, 138.90, 194.33. This compound has the following structure:

reactant | 4-azido-17β-(cyclopropyloxy)androst-4-en-3-one | 3.57 mM | N(=[N+]=[N-])C1=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)OC1CC1 | C22H31N3O2
reactant | triphenylphosphine | 4.97 mM, 1.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 8 ml | O | H2O
product | 4-amino-17β-(cyclopropyloxy)androst-4-en-3-one | 0.53 g, 43.1% | NC1=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)OC1CC1 | C22H33NO2
